US08110579B2
Add 88 mg (0.87 mmol) of 1-methyl-3-hydroxypyrrolidine, 246 mg (1.09 mmol) of triphenylphosphine and 0.01 mL (0.07 mmol) of TEA to a solution of 300 mg (0.72 mmol) of ethyl 6-(4-chloro-3-hydroxyphenyl)-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate in 2.5 mL of anhydrous THF cooled to 0° C. and placed under argon. After dissolution, add dropwise, at 0° C., a solution of 0.24 mL (1.09 mmol) of DIAD in 2.5 mL of anhydrous THF. Bring the reaction mixture to RT, stir for 18 h, then take up in 50 mL of EtOAc. Wash the organic phase successively with 20 mL of a saturated aqueous solution of sodium bicarbonate (NaHCO3) then 20 mL of water. After drying over Na2SO4 and concentration under reduced pressure, purify the residue obtained by silica gel column chromatography, eluting with a DCM/methanol gradient from 0 to 20% of methanol. After concentration under reduced pressure, we obtain 250 mg of ethyl 6-{4-chloro-3-[(1-methylpyrrolidin-3-yl)oxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate in the form of oil.

reactant | 1-methyl-3-hydroxypyrrolidine | 0.87 mmol, 88 mg | CN1CC(CC1)O | C5H11NO
reactant | triphenylphosphine | 1.09 mmol, 246 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 6-(4-chloro-3-hydroxyphenyl)-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate | 0.72 mmol, 300 mg | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OCC)C1=C(C=CC=C1OC)OC)O | C22H20ClNO5
reactant | DIAD | 1.09 mmol, 0.24 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | ethyl 6-{4-chloro-3-[(1-methylpyrrolidin-3-yl)oxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate | 250 mg, Yield=70% | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OCC)C1=C(C=CC=C1OC)OC)OC1CN(CC1)C | C27H29ClN2O5
